US05262390
Step J: Methyl 2-(2-chloromethyl-5-methylphenoxy)propionate
A solution of 2.20 g (0.0098 mole) of methyl 2-(2-hydroxymethyl-5-methylphenoxy)propionate in 10 mL of dry methylene chloride was added to a colorless solution of 1.28 g (0.0108 mole) of thionyl chloride and 5 drops of pyridine in 10 mL of dry methylene chloride during a 10 minute period. This mixture was heated at reflux for one hour and then poured into 50 mL of water. The phases were separated, and the aqueous phase was extracted three times with methylene chloride. These extracts were combined with the organic phase, which was then washed three times with a saturated aqueous solution of sodium bicarbonate and once with a saturated aqueous solution of sodium chloride. The organic phase was then dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated under reduced pressure, leaving a yellow oil as a residue. This oil was placed on a silica gel column and eluted with methylene chloride. After the product-containing fractions were combined and the solvent evaporated under reduced pressure, 2.06 g of methyl 2-(2-chloromethyl-5-methylphenoxy)propionate was recovered as a colorless oil. The NMR spectrum was consistent with the proposed structure.

reactant | methyl 2-(2-hydroxymethyl-5-methylphenoxy)propionate | 0.0098 mole, 2.20 g | OCC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H16O4
reactant | thionyl chloride | 0.0108 mole, 1.28 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-chloromethyl-5-methylphenoxy)propionate | ClCC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H15ClO3
